US05419893
(f) N4,N7,N10 -Triscarboxymethyl-1,13-bishydroxy-5,9-bishydroxymethyl-4,7,10-triazatridecane
N4,N7,N10 -Triscarboxymethyl-1,13-bisbenzyloxy-5,9-bisbenzyloxymethyl-4,7,10-triazatridecane (0.30 g, 0.4 mmol) was dissolved in methanol (15 ml), 10% Palladium on carbon (0.3 g) and ammonium formate (0.1 g) were added and the mixture was kept at 0° C. for 16 hours. The catalyst was filtered off and washed with methanol (5 ml). The filtrate was evaporated and the title compound was isolated. as a white powder. Yield 0.14 g (95%). M.p. 173°-177° C. The structure was confirmed by 1H NMR and 13CNMR.

reactant | N4,N7,N10 -Triscarboxymethyl-1,13-bisbenzyloxy-5,9-bisbenzyloxymethyl-4,7,10-triazatridecane | 0.4 mmol, 0.30 g | C(=O)(O)CN(CCCOCC1=CC=CC=C1)C(CN(CC(N(CCCOCC1=CC=CC=C1)CC(=O)O)COCC1=CC=CC=C1)CC(=O)O)COCC1=CC=CC=C1 | C46H59N3O10
reactant | ammonium formate | 0.1 g | C(=O)[O-].[NH4+]
solvent | methanol | 15 ml | CO | CH4O
catalyst | Palladium on carbon | 0.3 g | [Pd] | Pd
product | N4,N7,N10 -Triscarboxymethyl-1,13-bishydroxy-5,9-bishydroxymethyl-4,7,10-triazatridecane | C(=O)(O)CN(CCCO)C(CN(CC(N(CCCO)CC(=O)O)CO)CC(=O)O)CO | C18H35N3O10
